US06255327B1
4.8 g of 2,3-dicarboxy-1-(2-methoxyphenyl)-4-phenyl-pyrrole and 2 g of Cu powder are heated for 2 hours to about 200° C. in 50 ml of quinoline. After cooling the Cu powder is filtered off. The filtrate is diluted with water, acidified with dilute aqueous HCl solution and extracted with ethyl acetate. The organic phase is washed successively with dilute, aqueous HCl solution, NaHCO3 solution and water and then dried. After the solvent has been distilled off in vacuo the remaining product is purified by chromatography on silica gel (cyclohexane:ethyl acetate 95:5). 1.6 g of 1-(2-methoxyphenyl)-3-phenyl-pyrrole are obtained in the form of a colourless oil.

reactant | 2,3-dicarboxy-1-(2-methoxyphenyl)-4-phenyl-pyrrole | 4.8 g | C(=O)(O)C=1N(C=C(C1C(=O)O)C1=CC=CC=C1)C1=C(C=CC=C1)OC | C19H15NO5
solvent | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 1-(2-methoxyphenyl)-3-phenyl-pyrrole | 1.6 g | COC1=C(C=CC=C1)N1C=C(C=C1)C1=CC=CC=C1 | C17H15NO
